US07462611B2
(a)′: N-(4-Nitro-phenyl)-methanesulfonamide
A solution of methanesulfonylchloride (47.1 mL, 0.61 mol) in acetonitrile (160 mL) was added over 40 min to a solution of 4-nitroaniline (80.0 g, 0.58 mol) and pyridine (70.2 mL, 0.87 mol) in acetonitrile (400 mL) at 25° C. The mixture was stirred at 25° C. for 19 h, and then water (800 mL) was added. The resulting suspension was stirred at 25° C. for 30 min, and then was filtered through medium paper using a Büchner funnel. The collected solid was washed with water (2×150 mL) and air-dried overnight to afford the desired product, N-(4-nitro-phenyl)-methanesulfonamide (111.4 g, 0.52 mol, 89% yield) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 3.17 (3H, s), 7.35 (2H, d, J=9.4 Hz), 8.20 (2H, d, J=9.1 Hz), 10.69 (1H, s).

reactant | methanesulfonylchloride | 0.61 mol, 47.1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-nitroaniline | 0.58 mol, 80.0 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | pyridine | 0.87 mol, 70.2 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 800 mL | O | H2O
solvent | acetonitrile | 160 mL | C(C)#N | C2H3N
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | N-(4-nitro-phenyl)-methanesulfonamide | 0.52 mol, 111.4 g, 89% yield | [N+](=O)([O-])C1=CC=C(C=C1)NS(=O)(=O)C | C7H8N2O4S
